US09422271B2
5-(5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)furan-2-sulfonamide (Compound 240)
To a solution of compound N-tert-butyl-5-(5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)furan-2-sulfonamide (45 mg, 0.10 mmol, 1.0 equiv.) in CH2Cl2 (5 mL) was added BCl3 (1.0 mL, 1.0 mmol, 10.0 equiv.) at room temperature. The mixture was stirred for 2 hours, then, concentrated. The residue was recrystallized with methanol and isopropylether to give the title compound 5-(5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)furan-2-sulfonamide (Compound 240) (20 mg, 53%). LC-MS (m/z)=380.9 [M+H]+; 1H NMR (400 MHz, DMSO-d6): δ 0.73-0.81 (m, 2H), 0.91-1.00 (m, 2H), 1.91-1.97 (m, 1H), 6.50 (s, 1H), 7.12 (d, J=3.2 Hz, 1H), 7.21 (d, J=2.8 Hz, 1H), 7.93 (s, 2H), 8.48 (s, 1H), 9.44 (s, 1H), 12.28 (s, 1H).

reactant | N-tert-butyl-5-(5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)furan-2-sulfonamide | 0.10 mmol, 45 mg, 1.0 equiv. | C(C)(C)(C)NS(=O)(=O)C=1OC(=CC1)C1=NC=C(C(=N1)NC1=NNC(=C1)C1CC1)Cl | C18H21ClN6O3S
reactant | BCl3 | 1.0 mmol, 1.0 mL, 10.0 equiv. | B(Cl)(Cl)Cl | BCl3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-(5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)furan-2-sulfonamide | 20 mg, 53% | ClC=1C(=NC(=NC1)C1=CC=C(O1)S(=O)(=O)N)NC1=NNC(=C1)C1CC1 | C14H13ClN6O3S
